US04780477
By using 1-(2-diisopropylaminoethyl)-5-methoxyisatin and semicarbazide hydrochloride, a method analogous to that described in Example 6 was carried out to obtain (E)-1-(2-diisopropylaminoethyl)-5-methoxyisatin 3-semicarbazone having a melting point of 157°-159° C. (yield: 84.0%, recrystallizing solvent: ethanol).

reactant | 1-(2-diisopropylaminoethyl)-5-methoxyisatin | C(C)(C)N(CCN1C(=O)C(=O)C2=CC(=CC=C12)OC)C(C)C | C17H24N2O3
reactant | semicarbazide hydrochloride | Cl.NNC(=O)N
product | (E)-1-(2-diisopropylaminoethyl)-5-methoxyisatin 3-semicarbazone | yield: 84.0% | C(C)(C)N(CCN1C(=O)/C(/C2=CC(=CC=C12)OC)=N/NC(=O)N)C(C)C | C18H27N5O3
